US08193349B2
A solution of trans-3-benzyloxy-cyclobutanecarboxylic acid methyl ester (680 mg, 3.09 mmol) as a 0.05 M solution in MeOH is pumped through the H-Cube™ flow hydrogenator fitted with a 10 mol % Pd/C catalyst cartridge heated to 40° C. at 10 bar. The flow rate is set at 1 ml/min. The solvent is removed under reduced pressure to give trans 3-hydroxy-cyclobutanecarboxylic acid methyl ester (380 mg, 94.5%); TLC (hexane/AcOEt, 1:1) Rf 0.38, 1H NMR (400 MHz, chloroform-d) δ ppm 2.18-2.25 (m, 2H), 2.55-2.61 (m, 2H), 3.01-3.08 (m, 1H), 3.70 (s, 3H), 4.53-4.61 (m, 1H).

reactant | trans-3-benzyloxy-cyclobutanecarboxylic acid methyl ester | 3.09 mmol, 680 mg | COC(=O)[C@@H]1C[C@H](C1)OCC1=CC=CC=C1 | C13H16O3
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | trans 3-hydroxy-cyclobutanecarboxylic acid methyl ester | 380 mg, 94.5% | COC(=O)[C@@H]1C[C@H](C1)O | C6H10O3
